US09169242B2
Step 1: 3-(3-Bromo-4-methylphenyl)-5,5-dimethyl-4,5-dihydroisoxazole:
To a mixture of 1-(3-bromo-4-methylphenyl)-3-methylbut-2-en-1-one, (prepared herein before in step 2 of intermediate 1; 1.0 g, 3.95 mmol, 1.0 eq), and hydroxylamine hydrochloride (330 mg, 4.74 mmol, 1.2 eq) in ethanol (10 mL) at 0° C., was added an aqueous solution of potassium hydroxide (1N, 4 mL) until the pH of the reaction was basic. The resulting mixture was stirred at room temperature for 4 h. The reaction mixture was diluted with ethyl acetate (20 mL) followed by water (20 mL). The layers were separated and the organic layer was extracted with ethyl acetate (2×20 mL). The combined organic layers were washed with brine (20 mL), dried (Na2SO4) and filtered. The filtrate was concentrated under vacuum. The crude product was purified by flash column chromatography (silica gel, 5% EtOAc in hexane) to afford 250 mg of the desired product as a white solid. 1HNMR (400 MHz, CDCl3) δ 7.79 (s, 1H), 7.53 (d, J=8.0 Hz, 1H), 7.27 (d, J=8.0 Hz, 1H), 3.08 (s, 2H), 2.43 (s, 3H), 1.50 (s, 6H); ESI-MS (m/z) 268, 270 [(MH)+, Br79,81].

reactant | 1-(3-bromo-4-methylphenyl)-3-methylbut-2-en-1-one | BrC=1C=C(C=CC1C)C(C=C(C)C)=O | C12H13BrO
reactant | hydroxylamine hydrochloride | 4.74 mmol, 330 mg, 1.2 eq | Cl.NO
reactant | potassium hydroxide | 1N, 4 mL | [OH-].[K+]
reactant | water | 20 mL | O | H2O
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 3-(3-Bromo-4-methylphenyl)-5,5-dimethyl-4,5-dihydroisoxazole | 250 mg | BrC=1C=C(C=CC1C)C1=NOC(C1)(C)C | C12H14BrNO
